US05081145
3-[1-(4-bromobenzyl)-3-methyl-5-methoxyindol-2-yl]-2,2-dimethylpropanoic acid
Following the method of Example 2, but using 1-[4-bromobenzyl]-1-(4-methoxy phenyl) hydrazine hydrochloride and methyl-2,2-dimethyl-4-oxohexanoate as the starting materials, using t-butanol as the solvent, the title compound was prepared.

reactant | 1-[4-bromobenzyl]-1-(4-methoxy phenyl) hydrazine hydrochloride | Cl.BrC1=CC=C(CN(N)C2=CC=C(C=C2)OC)C=C1
reactant | methyl-2,2-dimethyl-4-oxohexanoate | COC(C(CC(CC)=O)(C)C)=O | C9H16O3
solvent | t-butanol | C(C)(C)(C)O | C4H10O
product | 3-[1-(4-bromobenzyl)-3-methyl-5-methoxyindol-2-yl]-2,2-dimethylpropanoic acid | BrC1=CC=C(CN2C(=C(C3=CC(=CC=C23)OC)C)CC(C(=O)O)(C)C)C=C1 | C22H24BrNO3
